US05262390
By the method of Example 1, Step C, of U.S. Pat. No. 4,906,281, 1.50 g (0.004 mole) of methyl 2-[2-(3-fluoro-4-isothiocyanatophenoxymethyl)-5-methylphenoxy]propionate and 1.07 g (0.005 mole) of perhydropyridazine monohydroiodide (prepared by the method of Example 1, Step B, of U.S. Pat. No. 4,906,281) were reacted in the presence of 0.20 g (0.0050 mole of sodium hydroxide in 40 mL of water and 10 ML of tetrahydrofuran, yielding 1.50 g of methyl 2-[2-[4-(perhydropyridazin-1-ylthiocarbonylamino)-3-fluorophenoxymethyl]-5-methylphenoxy]propionate as a syrup. The NMR spectrum was consistent with proposed structure.

reactant | methyl 2-[2-(3-fluoro-4-isothiocyanatophenoxymethyl)-5-methylphenoxy]propionate | 0.004 mole, 1.50 g | FC=1C=C(OCC2=C(OC(C(=O)OC)C)C=C(C=C2)C)C=CC1N=C=S | C19H18FNO4S
reactant | perhydropyridazine monohydroiodide | 0.005 mole, 1.07 g | I.N1NCCCC1
reactant | sodium hydroxide | 0.0050 mole | [OH-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 40 mL | O | H2O
product | methyl 2-[2-[4-(perhydropyridazin-1-ylthiocarbonylamino)-3-fluorophenoxymethyl]-5-methylphenoxy]propionate | 1.50 g | N1(NCCCC1)C(=S)NC1=C(C=C(OCC2=C(OC(C(=O)OC)C)C=C(C=C2)C)C=C1)F | C23H28FN3O4S
